US05116984
(ii) 1,2-Dihydro-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4(3H)-phenanthrenone maleate
A solution of 1,2-dihydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methylene]-4(3H)-phenanthrenone (0.5 g) in a mixture of THF (15 ml), acetic acid (5 ml) and water (5 ml) was heated on a steam bath for 45 min. 0.5M Hydrochloric acid (25 ml) was added and the mixture was extracted with ether (2×15 ml; discarded). The aqueous solution was basified with solid potassium carbonate and the mixture was extracted with dichloromethane (3×15 ml). The dried extracts were evaporated and the residue (0.21 g) was dissolved in ethanol (25 ml) and hydrogenated at room temperature and atmospheric pressure over a stirred suspension of 10% palladium on carbon (0.05 g) for 1.5 h. The solution was filtered and the filtrate evaporated to give a gum which was purified by FCC eluting firstly with ethyl acetate and then with ethyl acetate/methanol (3:1) to give the free base of the title compound as a gum (0.13 g). This was dissolved in methanol (20 ml) containing maleic acid (50 mg) and the solution was evaporated to give a gum which on trituration with ether gave the title compound as a solid (0.11 g), m.p. 133°-134° .

reactant | 1,2-dihydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methylene]-4(3H)-phenanthrenone | 0.5 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C1CCC=2C=CC3=CC=CC=C3C2C1=O | C38H30N2O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | water | 5 ml | O | H2O
reactant | Hydrochloric acid | 0.5M, 25 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1,2-Dihydro-3-[(5-methyl-1H-imidazol-4-yl)methyl]-4(3H)-phenanthrenone maleate | 0.13 g | C(\C=C/C(=O)O)(=O)O.CC1=C(N=CN1)CC1CCC=2C=CC3=CC=CC=C3C2C1=O | InChI=1S/C19H18N2O.C4H4O4/c1-12-17(21-11-20-12)10-15-9-8-14-7-6-13-4-2-3-5-16(13)18(14)19(15)22;5-3(6)1-2-4(7)8/h2-7,11,15H,8-10H2,1H3,(H,20,21);1-2H,(H,5,6)(H,7,8)/b;2-1-
